US08937071B2
To a mixture of (4-methoxyphenyl)methanol (16.71 g, 121 mmol) in DMF (200 mL) was added NaH (3.96 g, 165 mmol) at 0° C. After the mixture was stirred for 30 min, 5-bromo-2-chloro-3-ethoxypyridine (26 g, 110 mmol) was added to above mixture; the mixture was stirred for 12 h at 80-90° C. The mixture was quenched by H2O (20 mL), extracted with DCM (2×200 mL), dried over Na2SO4 and concentrated to give the residue which was purified by via column chromatography (10% EA/90% PE, 360 g silica column). All fractions found to contain product by TLC (EA/PE=5:1, Rf=0.5) were combined and concentrated to yield a white solid of 5-bromo-3-ethoxy-2-((4-methoxybenzyl)oxy)pyridine (36 g, 74.5 mmol, 67.8% yield): 1H NMR (400 MHz, CD3OD) δ 7.71 (d, J=2.0 Hz, 1H), 7.36-7.31 (m, 3H), 6.89-6.87 (m, 2H), 5.27 (s, 2H), 4.05-4.00 (m, 2H) 3.77 (s, 3H), 2.37 (d, J=7.0 Hz, 3H); ES-LCMS m/z 338 (M+H).

reactant | (4-methoxyphenyl)methanol | 121 mmol, 16.71 g | COC1=CC=C(C=C1)CO | C8H10O2
reactant | NaH | 165 mmol, 3.96 g | [H-].[Na+]
reactant | 5-bromo-2-chloro-3-ethoxypyridine | 110 mmol, 26 g | BrC=1C=C(C(=NC1)Cl)OCC | C7H7BrClNO
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 5-bromo-3-ethoxy-2-((4-methoxybenzyl)oxy)pyridine | 74.5 mmol, 36 g, 67.8% yield | BrC=1C=C(C(=NC1)OCC1=CC=C(C=C1)OC)OCC | C15H16BrNO3
